US07635700B2
A mixture of 2-amino-6-chlorobenzoic acid (3.0 g, 17 mmol) and CDI (2.6 g, 16 mmol) in acetonitrile (40 mL) was stirred at room temperature for 1.5 hours. To the suspension, was added 3-amino-piperidine-2,6-dione hydrogen chloride (2.6 g, 16 mmol) and sodium hydrogen carbonate (1.8 g, 21 mmol), and the mixture was heated at 50° C. for 21 hours. The suspension was cooled to room temperature for 1 hour. The suspension was filtered and washed with water (50 mL) and ethyl acetate (20 mL). The solid was dried in a vacuum oven overnight to give 2-amino-N-(2,6-dioxo-piperidin-3-yl)-6-chloro-benzamide as a white solid (1.7 g, 35% yield): HPLC, Waters Symmetry C-18, 3.9×150 mm, 5 μm, 1 mL/min, 240 nm, 5/95 grad to 95/5 for 5 min CH3CN/0.1% H3PO4, 4.01; 1H NMR (DMSO-d6) δ 1.92-1.98 (m, 1H, CHH), 2.05-2.20 (m, 1H, CHH), 2.49-2.57 (m, 1H, CHH), 2.76-2.88 (m, 1H, CHH), 4.67-4.76 (m, 1H, NCH), 5.61 (s, 2H, NH2), 6.57 (d, J=8 Hz, 11H, Ar), 6.63 (d, J=8 Hz, 1H, Ar), 7.04 (t; J=8 Hz, 1H, Ar), 8.83 (d, J=8 Hz, 1H, NH), 10.95 (s, 1H, NH); 13C NMR (DMSO-d6) δ 23.50, 30.96, 49.31, 113.29, 115.51, 120.97, 130.03, 130.19, 147.03, 165.60, 172.92, 172.97; LCMS: MH=282, 284.

reactant | 2-amino-6-chlorobenzoic acid | 17 mmol, 3.0 g | NC1=C(C(=O)O)C(=CC=C1)Cl | C7H6ClNO2
reactant | CDI | 16 mmol | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 3-amino-piperidine-2,6-dione hydrogen chloride | 16 mmol | Cl.NC1C(NC(CC1)=O)=O
reactant | sodium hydrogen carbonate | 21 mmol, 1.8 g | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | 2-amino-N-(2,6-dioxo-piperidin-3-yl)-6-chloro-benzamide | 1.7 g, 35% yield | NC1=C(C(=O)NC2C(NC(CC2)=O)=O)C(=CC=C1)Cl | C12H12ClN3O3
